US05565482
Preparation of 3-(trifluoroacetyl)-4-chromanone
Ethyl trifluoroacetate (9.78 g, 68 mmol) was placed in a 250 mL round bottom flask, and dissolved in ether (50 mL). To the stirred solution was added 25% sodium methoxide (15.11 g, 70 mmol), followed by 4-chromanone (10.07 g, 68 mmol) dissolved in ether (25 mL). The reaction was stirred at room temperature overnight (18.3 hours), poured into a separatory funnel and washed with 3N hydrochloric acid (20 mL) and with brine (20 mL), dried over MgSO4, concentrated in vacuo, and recrystallized from ether/hexane to give a yellow solid (10.72 g, 65%): mp 81°-83° C.; 1H NMR (CDCl3) 300 MHz 16.04 (br s, 1H) 7.84 (d, J=7.9 Hz, 1H) 7.51 (m, 1H) 7.09 (m, 1H) 6.98 (d, J=8.5 Hz, 1H) 5.08 (s, 2H); 19F NMR (CDCl3) 300 MHz: -72.56 (s). Mass spectrum: M+=244.

reactant | Ethyl trifluoroacetate | 68 mmol, 9.78 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 70 mmol, 15.11 g | C[O-].[Na+]
reactant | 4-chromanone | 68 mmol, 10.07 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 3-(trifluoroacetyl)-4-chromanone | 10.72 g, 65% | FC(C(=O)C1COC2=CC=CC=C2C1=O)(F)F | C11H7F3O3
